delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.483148
Rb B C 29.884718
Rc C A 759.361945
Rload B 0 29.690366
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
